US08557809B2
Step A: Preparation of 7-bromo-2-methylquinolin-8-ol
To a 250 mL flask was added toluene (150 mL) and t-BuNH2 (7.26 mL, 69.1 mmol). The solution was cooled to −25° C. and bromine (1.95 mL, 38.0 mmol) was added. The solution was cooled to −78° C. and 2-methylquinolin-8-ol (5.5 g, 34.6 mmol) was added as a CH2Cl2 solution (15 mL). The reaction mixture was then gradually warmed to ambient temperature over 6 hours. The mixture was washed with water (50 mL) and then treated with 3.0 M aqueous NaOH (250 mL). This provided copious amounts of precipitate, which went into solution after about 600 mL water was added. The layers were mixed and separated. The alkaline extract was carefully acidified with concentrated HCl (about 50 mL). The solution was extracted with CH2Cl2 (4×200 mL), and the combined extracts were washed with brine and dried over Na2SO4, filtered and concentrated. The original water wash was found to contain a significant amount of product, so 10 mL 1M HCl was added and the acidic solution was extracted with CH2Cl2 (2×75 mL) and these layers were also washed with brine, dried over Na2SO4, filtered and concentrated. The organic phases were combined to provide 5.0 g (60%) of the desired product as a red/brown solid.

reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | t-BuNH2 | 69.1 mmol, 7.26 mL | C(C)(C)(C)N | C4H11N
reactant | bromine | 38.0 mmol, 1.95 mL | BrBr | Br2
reactant | 2-methylquinolin-8-ol | 34.6 mmol, 5.5 g | CC1=NC2=C(C=CC=C2C=C1)O | C10H9NO
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 7-bromo-2-methylquinolin-8-ol | 5.0 g, 60% | BrC1=CC=C2C=CC(=NC2=C1O)C | C10H8BrNO
